US06054588
Analogously to Example 1a,b, after reacting 1-(4-methylphenyl)-2-[1,2,4]triazol-1-yl-ethanone with isopropyl bromide there was obtained 1-[2-(4-tolyl)-2-isopropoxy-vinyl]-1H-[1,2,4]triazole. After reaction with HCl in dioxan there was obtained a salt of the composition C14H17N3O.HCl.[M+H]+ =243.

reactant | 1-(4-methylphenyl)-2-[1,2,4]triazol-1-yl-ethanone | CC1=CC=C(C=C1)C(CN1N=CN=C1)=O | C11H11N3O
reactant | isopropyl bromide | C(C)(C)Br | C3H7Br
product | 1-[2-(4-tolyl)-2-isopropoxy-vinyl]-1H-[1,2,4]triazole | C1(=CC=C(C=C1)C(=CN1N=CN=C1)OC(C)C)C | C14H17N3O
